US08008298B2
2,2-Dimethyl-1-[2-(3-propoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one was prepared starting from 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one and 3-propyloxybenzene boronic acid following general procedures as described in these Examples. Silica gel chromatography using 30-70% EtOAc in hexanes as eluant provided 56 mg (38%) of a yellow solid. MP 179-180° C., M+H=338.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 3-propyloxybenzene boronic acid | C(CC)OC=1C=C(C=CC1)B(O)O | C9H13BO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,2-Dimethyl-1-[2-(3-propoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)OCCC)(C)C | C20H23N3O2
